US06124323
1-(2-(4-Fluorophenoxy)ethyl)-4-(2-picolyl)piperidine dimaleic acid salt
The title compound was prepared from isonipecotamide, 2-(4-fluorophenoxy)ethyl bromide, and K2CO3 in four steps as a pale yellow solid, mp 114-115° C.; 1H NMR (CDCl3) 1.56-1.75 (m, 2H), 1.94 (d, J=15 Hz, 2H), 2.08-2.25 (m, 1H), 2.96-3.18 (m, 4H), 3.33-3.56 (m, 2H), 3.62-3.73 (m, 2H), 4.32 (d, J=4.8 Hz, 2H), 6.26 (s, 4H), 6.91-7.12 (m, 4H), 7.84-7.94 (m, 2H), 8.48 (td, J=7.8 and 1.5 Hz, 1H), 8.63 (d, J=6.0 Hz, 1H); Anal. Calcd for C27H31FN2O9 : C, 59.33; H, 5.71; N, 5.12. Found: C, 59.36; H, 5.68; N, 4.94.

reactant | isonipecotamide | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | 2-(4-fluorophenoxy)ethyl bromide | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 1-(2-(4-Fluorophenoxy)ethyl)-4-(2-picolyl)piperidine dimaleic acid salt | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.FC1=CC=C(OCCN2CCC(CC2)CC2=NC=CC=C2)C=C1 | InChI=1S/C19H23FN2O.2C4H4O4/c20-17-4-6-19(7-5-17)23-14-13-22-11-8-16(9-12-22)15-18-3-1-2-10-21-18;2*5-3(6)1-2-4(7)8/h1-7,10,16H,8-9,11-15H2;2*1-2H,(H,5,6)(H,7,8)/b;2*2-1-
